Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / Androgenic 
Anabolic Steroid / Sulfa (Sulfonamide Antibiotics) / Persulfates
 
Attending: ___.
 
Chief Complaint:
Palpitations
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old female with PMH of Crohn's disease
(currently well controlled on Imuran and Humira) and a
questionable history of SVT years ago who presents with
palpitations that started 4:30 in the morning on the day of the
presentation. 

The patient reports that this morning, she developed 
palpitations
that woke her up from sleep. At first, she thought she may be
dehydrated (has had palpitations in the past with dehydration)
and began to drink water and decided to go to work. En route to
work as a ___, she felt very dizzy and had to stop three
times prior to arriving. While at work, her palpitation symptoms
worsened and she decided to place a monitor on herself which was
notable for HR in 120s. She then performed a 4 lead EKG which
showed a new LBBB followed by a 12 lead which again showed the
LBBB. Given that her father had a MI associated with LBBB, she
decided to come to the ED for further management.  

Of note, prior to this episode the patient was feeling overall
well. No fevers, chills, recent illnesses, nausea, vomiting or
urinary symptoms. She is very active at baseline working as an
___ and a ___ without reports of anginal symptoms. She
denies any ___ swelling, orthopnea, recent weight gain or changes
in medications. No known family history of arrhythmia.

In the ED, initial VS were:
99.2   113   170/90   22  98% RA   

Exam notable for: 
Cardiac exam without any m/r/g, JVP approximately 7 cm H2O, no
lower extremity edema. 

ECG:  sinus rhythm 92 bpm and intermittent left bundle branch
block (likely dependent per EP)

Labs showed: 
WBC-7.3  HgB-14.5  ___      AGap=13 
-------------<80
3.9  23  0.6 
  

Trop-T: <0.01 x2  
___: 11.6  PTT: 25.0  INR: 1.1 

Imaging showed:
CXR: No focal consolidation to suggest pneumonia.  

Consults: EP was consulted who recommended admission to ___ for
telemetry monitoring and TTE to assess for structural pathology 

Patient received: Nothing 

Transfer VS were:  
80   142/84   16  96% RA 

On arrival to the floor, patient reports continued palpitations
with associated nausea. They have become more bothersome and she
is asking for medications to help "calm her down." No chest pain
or SOB. 
 
REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI  
 

 
Past Medical History:
-Crohn's Disease
-Possible history of SVT 
 
 
Social History:
___
Family History:
Notable for father and grandfather with MI. No known family
history of arrhythmias or sudden cardiac death.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 98.5PO   139/74  82  16  98% RA 
GENERAL: Laying comfortably in bed, NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: soft, nondistended, nontender in all quadrants
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose 

DISCHARGE PHYSICAL EXAM
___ 0750 Temp: 98.4 PO BP: 117/81 R Sitting HR: 76 RR: 18 
O2
sat: 98% O2 delivery: Ra 
GENERAL: Laying comfortably in bed, NAD
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: soft, nondistended, nontender in all quadrants
EXTREMITIES: no cyanosis, clubbing, or edema  
NEURO: A&Ox3, moving all 4 extremities with purpose   
 
Pertinent Results:
ADMISSION LABS
=================
___ 01:42PM BLOOD WBC-7.3 RBC-4.45 Hgb-14.5 Hct-41.1 MCV-92 
MCH-32.6* MCHC-35.3 RDW-11.9 RDWSD-40.4 Plt ___
___ 02:22PM BLOOD ___ PTT-25.7 ___
___ 04:00PM BLOOD Glucose-80 UreaN-9 Creat-0.6 Na-141 K-3.9 
Cl-105 HCO3-23 AnGap-13
___ 01:42PM BLOOD cTropnT-<0.01
___ 04:00PM BLOOD cTropnT-<0.01
___ 04:00PM BLOOD TSH-0.95

DISCHARGE LABS
===================
___ 07:35AM BLOOD WBC-4.9 RBC-4.56 Hgb-15.1 Hct-43.4 MCV-95 
MCH-33.1* MCHC-34.8 RDW-11.9 RDWSD-41.3 Plt ___
___ 07:35AM BLOOD Glucose-85 UreaN-7 Creat-0.7 Na-140 K-4.5 
Cl-105 HCO3-23 ___ TTE:
The left atrial volume index is mildly increased. No atrial 
septal defect is seen by 2D or color Doppler. Left ventricular 
wall thickness, cavity size and regional/global systolic 
function are normal (LVEF >60%). Tissue Doppler imaging suggests 
a normal left ventricular filling pressure (PCWP<12mmHg). The 
right ventricular cavity is mildly dilated with normal free wall 
contractility. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is no mitral 
valve prolapse. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion. 

IMPRESSION: Normal biventricular systolic function. No 
pathologic valvular flow. Sinus rhythm with frequent ectopy (? 
APBs with abberancy versus VPBs).  
 
Brief Hospital Course:
Ms. ___ is a ___ year old female with PMH of Crohn's disease 
and possible SVT who presents to the ED with 1 day history of 
palpitations found to have new LBBB.

ACUTE ISSUES: 
==============
#Palpitations
#New LBBB:
Patient presented with 1 day history of palpitations with 
associated lightheadedness and nausea found to occasional runs 
of LBBB that is most likely rate related. Attempted to reproduce 
LBBB with patient ambulating with HRs in 100-110s, but this did 
not occur. No associated chest pain or history of anginal 
symptoms, and troponin negative x2 making ACS unlikely. TSH 
normal. EP evaluated the patient. She was monitored on telemetry 
and noted to have occasional PVC and is likely the cause of 
palpitations. LBBB in itself would not cause palpitations 
themselves. She had a TTE done with normal biventricular 
function, no valvular abnormalities. Patient was reassured and 
discharged. 

CHRONIC ISSUES: 
================
#Crohn's Disease: Symptoms currently well controlled on 
azathioprine and Humira.
-Continued home azathioprine 150mg qHS

TRANSITIONAL ISSUES
=======================
[]no further workup needed for rate related LBBB
[]can consider ___ of heart monitor and beta blocker if 
palpitations very symptomatic
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 40 mg PO BID 
2. AzaTHIOprine 150 mg PO DAILY 
3. Humira (adalimumab) 40 mg/0.8 mL subcutaneous EVERY 2 WEEKS 
4. Ondansetron 4 mg PO Q8H:PRN nausea 
5. Promethazine 12.5 mg PO Q6H:PRN nausea 
6. loperamide 2 mg oral Q8H:PRN 

 
Discharge Medications:
1.  AzaTHIOprine 150 mg PO DAILY  
2.  Humira (adalimumab) 40 mg/0.8 mL subcutaneous EVERY 2 WEEKS 
(MO)  
3.  loperamide 2 mg oral Q8H:PRN  
4.  Omeprazole 40 mg PO BID  
5.  Ondansetron 4 mg PO Q8H:PRN nausea  
6.  Promethazine 12.5 mg PO Q6H:PRN nausea  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Palpitations

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you.

Why you were admitted?
-You were admitted because you were having palpitations and 
intermittent left bundle branch block.

What we did for you?
-Your left bundle branch block is likely related when your heart 
rate goes up although this phenomenon is not always 
reproducible. 
-Your palpitations are likely related to ventricular premature 
beats. These are not dangerous.

What should you do when you leave the hospital?
-Please take all your medications as prescribed.
-Please follow up with your primary care doctor.

We wish you the best,
Your ___ team
 
Followup Instructions:
___